US06969730B2
(4-fluorophenyl)(4-hydroxy-3-iodophenyl)methanone
(4-Fluorophenyl)(4-hydroxyphenyl)methanone (20.0 g, 92.5 mmol) in concentrated ammonium hydroxide (770 mL) was allowed to stir at 25° C. for 15 minutes and then treated with potassium iodide (74.79 g, 450.5 mmol) and iodine (23.48 g, 92.5 mmol) in water (185 mL). The reaction mixture was allowed to stir at 25° C. for 18 hours and then filtered. The precipitate was dissolved in ethyl acetate, washed with water and brine, dried, filtered and the filtrate concentrated under reduced pressure to provide the title compound as a pale green solid (23.4 g, 74% yield). 1HNMR (300 MHZ, CD3OD) δ 6.91 (d, 1H, J=8.9 Hz), 7.26 (t, 2H), 7.64 (d, 1H, J=8.9 Hz), 7.78 (t, 2H), 8.17 (s, 1H); MS (DCI) m/z 342.9 (M+H)+, 360 (M+NH4)+.

reactant | (4-Fluorophenyl)(4-hydroxyphenyl)methanone | 92.5 mmol, 20.0 g | FC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)O | C13H9FO2
reactant | potassium iodide | 450.5 mmol, 74.79 g | [I-].[K+]
reactant | iodine | 92.5 mmol, 23.48 g | II | I2
solvent | ammonium hydroxide | 770 mL | [OH-].[NH4+]
solvent | water | 185 mL | O | H2O
product | (4-fluorophenyl)(4-hydroxy-3-iodophenyl)methanone | 23.4 g, 74% yield | FC1=CC=C(C=C1)C(=O)C1=CC(=C(C=C1)O)I | C13H8FIO2
